US06165944
0.35 g (8.8 mmol) of sodium hydroxide in 35 ml of water was added to 2.3 g (8.0 mmol) of methyl 2,4-dichloro-3-(3-methylisoxazol-5-yl)benzoate in a mixture of 50 ml of methanol and 50 ml of tetrahydrofuran. The mixture was stirred at room temperature for 12 hours, the solvent was removed and the residue was taken up in ethyl acetate/water. After phase separation, the organic phase was separated off and the aqueous phase was washed with ethyl acetate. The remaining aqueous phase was acidified and then extracted with ethyl acetate; the resulting organic phase was dried and concentrated. 2.1 g (96% of theory) of 2,4-dichloro-3-(3-methylisoxazol-5-yl)benzoic acid were obtained.

reactant | sodium hydroxide | 8.8 mmol, 0.35 g | [OH-].[Na+]
reactant | methyl 2,4-dichloro-3-(3-methylisoxazol-5-yl)benzoate | 8.0 mmol, 2.3 g | ClC1=C(C(=O)OC)C=CC(=C1C1=CC(=NO1)C)Cl | C12H9Cl2NO3
solvent | water | 35 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-3-(3-methylisoxazol-5-yl)benzoic acid | 2.1 g, 96% | ClC1=C(C(=O)O)C=CC(=C1C1=CC(=NO1)C)Cl | C11H7Cl2NO3
